US09233946B2
A solution of 4-isopropylphenol (500 mg, 3.67 mmol), N-iodosuccinimide (838 mg, 3.72 mmol) and p-TsOH (70 mg, 0.37 mmol) in CH2Cl2 (25 mL) was stirred at room temperature overnight. The reaction mixture was diluted with CH2Cl2 and washed with water. The organic phase was dried and evaporated to give 820 mg of 2-iodo-4-isopropylphenol (85%). 1H NMR (400 MHz, CDCl3) δ ppm 1.22 (d, J=7.03 Hz, 6 H) 2.82 (spt, J=6.95, 6.65 Hz, 1 H) 6.92 (d, J=8.53 Hz, 1 H) 7.11 (dd, J=8.28, 2.01 Hz, 1 H) 7.50 (d, J=2.01 Hz, 1 H).

reactant | 4-isopropylphenol | 3.67 mmol, 500 mg | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | N-iodosuccinimide | 3.72 mmol, 838 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | p-TsOH | 0.37 mmol, 70 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-iodo-4-isopropylphenol | 820 mg, 85% | IC1=C(C=CC(=C1)C(C)C)O | C9H11IO
